US06844362B2
Methyl 3-bromo-2,6-dimethoxybenzoate
3-Bromo-2,6-dimethoxybenzoic acid (5.0 g, 19.2 mmol) and thionyl chloride (10 ml) were heated to reflux for 2 h. The mixture was then concentrated in vacuo and diluted with CH2Cl2 (20 ml) and added to a solution of MeOH (614 mg, 38.4 mmol) and triethylamine (3.88 g, 38.4 mmol) in CH2Cl2 (100 ml) at 0° C. The resulting mixture was allowed to warm to RT and stirred for 64 h. The organics were washed with 10% HCl (50 ml), brine (50 ml) and dried (MgSO4) and purified by chromatography (0-50% EtOAC in heptane) to leave a white solid (4.17 g).

reactant | 3-Bromo-2,6-dimethoxybenzoic acid | 19.2 mmol, 5.0 g | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 38.4 mmol, 614 mg | CO | CH4O
reactant | triethylamine | 38.4 mmol, 3.88 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-bromo-2,6-dimethoxybenzoate | 4.17 g | BrC=1C(=C(C(=O)OC)C(=CC1)OC)OC | C10H11BrO4
